US04349378
N-2-oxopropyl-4'-chloro-methanesulphonanilide
A mixture of 4'-chloro-methanesulphonanilide (10.0 g), anhydrous potassium carbonate (4.0 g), chloroacetone (4.8 ml), and 1,2-dimethoxyethane was stirred and boiled under reflux for 24 hours, and then filtered, and the filtrate was evaporated. The oily residue was dissolved in ether, and the solution was washed with water, dried (MgSO4) and evaporated. The residue gave almost colourless crystals from acetone/40°-60° petrol. Melting point 108°. Yield 4.1 g.

reactant | 4'-chloro-methanesulphonanilide | 10.0 g | ClC1=CC=C(NS(=O)(=O)C)C=C1 | C7H8ClNO2S
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetone | 4.8 ml | ClCC(C)=O | C3H5ClO
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | N-2-oxopropyl-4'-chloro-methanesulphonanilide | O=C(CN(C1=CC=C(C=C1)Cl)S(=O)(=O)C)C | C10H12ClNO3S
